US07320972B2
A solution of dimethyl (4′-{(2S,3R)-3-[(3S)-3-{[tert-butyl(dimethyl)silyl]oxy}-3-(4-fluorophenyl)propyl]-4-oxo-1-phenylazetidin-2-yl}biphenyl-3-yl)phosphonate (0.32 g, 0.47 mmol) in dry dichloromethane (15 mL) under nitrogen was cooled in an ice bath and bromotrimethylsilane (0.30 mL, 2.27 mmol) was dripped in over 5 min. The reaction mixture was stirred at room temperature for 3 h, then poured into ice water (20 m]L) and extracted with ethyl acetate. The organic solution was washed successively with water (2×) and brine. The organic solution was dried over sodium sulfate, filtered and the solvent was removed by rotary evaporation under reduced pressure. The residue was purified by reverse-phase HPLC (Polaris C18-A 10 μ 250×21.2 mm column, 20% to 70% acetonitrile-0.1% trifluoroacetic acid in water) to afford (4′-{(2S,3R)-3-[(3S)-3-(4-fluorophenyl)-3-hydroxypropyl]-4-oxo-1-phenylazetidin-2-yl}biphenyl-3-yl)phosphonic acid (0.25 g, 99%) as a white powder; 1H NMR (300 MHz, CD3OD) δ 8.04 (br d, J=14.2 Hz, 1H) 7.68 (d, J=8.5 Hz, 2H), 7.50(d, J=8.5 Hz, 2H), 7.0-7.8 (m, 12H), 4.93 (d, J=2.2 Hz, 1H), 4.63 (t, J=5.2 Hz, 1H), 3.1-3.2 (m, 1H), 1.8-2.1 (m, 4H) ppm; MS [M−H]− 531, [2M-H]− 1061.

reactant | dimethyl (4′-{(2S,3R)-3-[(3S)-3-{[tert-butyl(dimethyl)silyl]oxy}-3-(4-fluorophenyl)propyl]-4-oxo-1-phenylazetidin-2-yl}biphenyl-3-yl)phosphonate | 0.47 mmol, 0.32 g | [Si](C)(C)(C(C)(C)C)O[C@@H](CC[C@@H]1[C@H](N(C1=O)C1=CC=CC=C1)C1=CC=C(C=C1)C1=CC(=CC=C1)P(OC)(OC)=O)C1=CC=C(C=C1)F | C38H45FNO5PSi
reactant | bromotrimethylsilane | 2.27 mmol, 0.30 mL | Br[Si](C)(C)C | C3H9BrSi
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
product | (4′-{(2S,3R)-3-[(3S)-3-(4-fluorophenyl)-3-hydroxypropyl]-4-oxo-1-phenylazetidin-2-yl}biphenyl-3-yl)phosphonic acid | 0.25 g, 99% | FC1=CC=C(C=C1)[C@H](CC[C@@H]1[C@H](N(C1=O)C1=CC=CC=C1)C1=CC=C(C=C1)C1=CC(=CC=C1)P(O)(O)=O)O | C30H27FNO5P
